US07893062B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-[(3S,4R)-4-phenyl-1-((S)-tetrahydro-furan-2-carbonyl)-pyrrolidin-3-yl]-isobutyramide
To a stirred solution of (S)-tetrahydro-furan-2-carboxylic acid (described in J. Med. Chem., 1995, 38(15, 2830) (5.0 mg, 0.043 mmol) in THF (2 ml) at RT were added Et3N (12 μl, 0.086 mmol), BOP (25 mg, 0.057 mmol) and rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-((3S,4R)-4-phenyl-pyrrolidin-3-yl)-isobutyramide (Intermediate VII-1) (20 mg, 0.043 mmol). Stirring was continued at 40° C. for 48 hours. Concentration and purification by preparative HPLC afforded 5.1 mg (25%) of the title compound.

reactant | (S)-tetrahydro-furan-2-carboxylic acid | 0.043 mmol, 5.0 mg | O1[C@@H](CCC1)C(=O)O | C5H8O3
reactant | Et3N | 0.086 mmol, 12 μl | CCN(CC)CC | C6H15N
reactant | BOP | 0.057 mmol, 25 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-((3S,4R)-4-phenyl-pyrrolidin-3-yl)-isobutyramide | 0.043 mmol, 20 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N([C@@H]1CNC[C@H]1C1=CC=CC=C1)C)(C)C)(F)F | C23H24F6N2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-[(3S,4R)-4-phenyl-1-((S)-tetrahydro-furan-2-carbonyl)-pyrrolidin-3-yl]-isobutyramide | 5.1 mg, 25% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N([C@@H]1CN(C[C@H]1C1=CC=CC=C1)C(=O)[C@H]1OCCC1)C)(C)C)(F)F | C28H30F6N2O3
